US06579879B2
a,a a-Trifluoro-o-iodo-p-cresol. A mixture of iodine (91.6 mmol, 23.2 g) and sodium bicarbonate (91.6 mmol, 7.7 g) was added to a solution of α,α,α-trifluoro-p-cresol (83.3 mmol, 13.5 g) in THF (90 mL) and H2O (90 mL) and the reaction mixture was allowed to stand at room temperature overnight. Sufficient thiourea (5% solution) was added to remove the excess iodine as indicated by the color change of the reaction from deep violet to brown. The reaction mixture was extracted with ether (3×100 mL), the extract was dried, filtered and the filtrate was concentrated to obtain a brown oil. This oil was distilled (bp 105° C. at 44 mm Hg) to obtain α,α,α-trifluoro-o-iodo-p-cresol (4.1 g, 75% pure, admixed with the starting α,α,α-trifluoro-p-cresol).

reactant | iodine | 91.6 mmol, 23.2 g | II | I2
reactant | sodium bicarbonate | 91.6 mmol, 7.7 g | C([O-])(O)=O.[Na+]
reactant | α,α,α-trifluoro-p-cresol | 83.3 mmol, 13.5 g | FC(C=1C=CC(=CC1)O)(F)F | C7H5F3O
reactant | thiourea | NC(=S)N | CH4N2S
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | H2O | 90 mL | O | H2O
product | α,α,α-trifluoro-o-iodo-p-cresol | FC(C=1C=C(C(=CC1)O)I)(F)F | C7H4F3IO
